US06596772B1
4-[2-Hydroxy-3-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-propylamino]-benzenesulfonamide (61).
A mixture of N4-(2,3-dihydroxypropyl)sulfanilamide (82 mg, 0.33 mmol), 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene (135 mg, 0.47 mmol) and potasium carbonate (190 mg, 1.33 mmol) in acetonitrile (2 mL) was heated to reflux for 2 days. The reaction was diluted with chloroform/isopropanol mixture, washed with brine, dried, concentrated and column chromatographed to give the title compound (mono-arylated) and 4-[2,3-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-propylamino]-benzenesulfonamide (di-arylated) example 62. 1H NMR (300 MHz, DMSO-d6) δ 8.63 (d, 1H), 8.35 (dd, 1H), 7.75 (d, 1H), 7.63 (d, 2H), 6.68 (d, 2H), 4.35 (d, 2H), 3.98 (t, 1H), 3.2 (m, 2H). MS −ve APCI 498 [M−1].

reactant | N4-(2,3-dihydroxypropyl)sulfanilamide | 0.33 mmol, 82 mg | OC(CNC1=CC=C(S(=O)(=O)N)C=C1)CO | C9H14N2O4S
reactant | 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene | 0.47 mmol, 135 mg | ClC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO4S
reactant | potasium carbonate | 1.33 mmol, 190 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
product | 4-[2-Hydroxy-3-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-propylamino]-benzenesulfonamide | OC(CNC1=CC=C(C=C1)S(=O)(=O)N)COC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C16H16F3N3O8S2
